US06146844
Fifty ml of the conversion culture medium described in Examples 1-9 was placed in a 250 ml Erlenmeyer flask and autoclaved at 120° C. for 20 minutes. This medium was inoculated with 1 ml of the seed culture solution prepared as in Examples 1-9 and shaking culture was carried out at 220 rpm for 48 hours at 28° C. To this culture were added cholesterol in the form of powder and 5.6 ml of a 1.5% aqueous solution of partially methylated β-cyclodextrin (methylation rate 74%: Mercian Corp.) which was sterilized beforehand, and the cultivation continued for further 40 hours. By the same method as Examples 1-9, 25-hydroxycholesterol in the culture solution obtained was quantified. The conversion rates into 25-hydroxycholesterol from cholesterol were summarized in Table 3.

reactant | cholesterol | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
reactant | β-cyclodextrin | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
product | 25-hydroxycholesterol | OC(C)(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O2
